US07449475B2
tert-Butyl 3-(trifluoromethyl)pyrrolidine-1-carboxylate
To a solution of tert-butyl3-hydroxy-3-(trifluoromethyl)pyrrolidine-1-carboxylate (468 mg, 1.83 mmol) in pyridine (10 mL) was added SOCl2 (1.71 mL) and the reaction mixture was stirred at reflux temperature under nitrogen for 25 min, cooled to room temperature, H2O (20 mL) was added, extracted with ethyl acetate. The combined organic layer was washed with dilute aqueous HCl, saturated aqueous NaHCO3 and H2O successively. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was dissolved in ethanol (10 mL), Pd/C (10%) (300 mg) was added and it was hydrogenated at room temperature over the weekend. The catalyst was removed by filtration. The filtrate was concentrated in vacuo to give the subtitled compound (100 mg).

reactant | tert-butyl3-hydroxy-3-(trifluoromethyl)pyrrolidine-1-carboxylate | 1.83 mmol, 468 mg | C(C)(C)(C)OC(=O)N1CC(CC1)(C(F)(F)F)O | C10H16F3NO3
reactant | SOCl2 | 1.71 mL | O=S(Cl)Cl | Cl2OS
reactant | H2O | 20 mL | O | H2O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 3-(trifluoromethyl)pyrrolidine-1-carboxylate | 100 mg | FC(C1CN(CC1)C(=O)OC(C)(C)C)(F)F | C10H16F3NO2
